US08975256B2
7-(5-Chloro-2-methoxyphenyl)-8-chloromethyl-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 14-1)
7-(5-Chloro-2-methoxyphenyl)-8-hydroxymethyl-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 13-1, 1.34 g, 3.71 mmol) was dissolved in anhydrous dichloromethane (19 mL), and triethylamine (621 μL, 4.46 mmol) and methanesulfonyl chloride (316 μL, 4.08 mmol) were added thereto successively. The reaction mixture was stirred at room temperature overnight. Ethyl acetate (200 mL) was added to the reaction mixture, washed with water (200 mL), dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled reference compound (1.14 g) as a colorless amorphous product. (Yield 81%)

reactant | 7-(5-Chloro-2-methoxyphenyl)-8-hydroxymethyl-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | ClC=1C=CC(=C(C1)C1=CC=C2NC(C(N(C2=C1CO)C)=O)(C)C)OC | C19H21ClN2O3
reactant | triethylamine | 4.46 mmol, 621 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 4.08 mmol, 316 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | Ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 19 mL | ClCCl | CH2Cl2
product | 7-(5-Chloro-2-methoxyphenyl)-8-chloromethyl-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 1.14 g, Yield 81% | ClC=1C=CC(=C(C1)C1=CC=C2NC(C(N(C2=C1CCl)C)=O)(C)C)OC | C19H20Cl2N2O2
